US05849757
3-Benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane-1-carboxylicacid (fr. 1)
To a solution of 920 mg (2.90 mmol) of 1-ethoxycarbonyl-3-benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane in ethanol (10 ml) cooled in an ice bath was added 6 ml of 1N sodium hydroxide aqueous solution, followed by 2 hours of stirring at room temperature. After neutralization with 1N hydrochloric acid aqueous solution, ethanol was evaporated. The resulting residue was mixed with 1N hydrochloric acid aqueous solution and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. By evaporating the solvent, 847.2 mg (quantitative) of the title compound was obtained as a crude product.

reactant | 1-ethoxycarbonyl-3-benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane | 2.90 mmol, 920 mg | C(C)OC(=O)C12CN(CC2CC1)C(=O)OCC1=CC=CC=C1 | C17H21NO4
reactant | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Benzyloxycarbonyl-3-azabicyclo[3.2.0]heptane-1-carboxylicacid | C(C1=CC=CC=C1)OC(=O)N1CC2(CCC2C1)C(=O)O | C15H17NO4
